US06455507B1
2-Bromo-5,6-dichlorobenzimidazole (0.25 g, 0.94 mmol), N,O-bis(trimethylsiyl) acetamide (Aldrich, 1.4 ml, 5.6 mmol), and acetonitrile (Aldrich Sure Seal, 20 ml) were combined and magnetically stirred under a nitrogen atmosphere for 1.5 h. To the silylated base was added 0.30 g (0.94 mmol) 1,2,3,4-tetra-O-acetyl-xylopyranose (Aldrich, Milwaukee) followed by stannic chloride (1.4 mmol, 0.12 ml, Aldrich, Milwaukee). The solution stirred under nitrogen overnight, and additional stannic chloride (0.35 ml, 4.1 mmol) was added the following day. One hour after the second addition of stannic chloride, the reaction was poured into saturated aqueous sodium sulfate, and filtered through a celite pad which was washed with chloroform and water. The filtrate layers were separated. The chloroform layer was washed with 2×150 ml saturated aq. sodium bicarbonate then with 1×150 ml of water. The organic layer was dried with magnesium sulfate (anhyd), filtered, and evaporated. The crude residue was purified on a silica gel column (2.5×20 cm, 230-400 mesh) with hexanes and a step gradient from 0 to 25% ethyl acetate to give the product, 2-bromo-5,6-dichloro-1-(2,3,4-tri-O-acetyl-beta-D-xylopyranosyl)-1H-benzimidazole (0.13 g, 0.24 mmol, 26%); 1H NMR (DMSO-d6) δ8.47-8.42 (bs,1H), 7.91 (s, 1H), 6.07-6.02 (bs, 1H), 5.66-5.54 (bs, 3H), 4.18-4.13 (m, 1H), 3.95-3.89 (m, 2H), 2.02 (s, 3H), 1.99 (s, 3H), 1.77 (bs, 3H).

reactant | 2-Bromo-5,6-dichlorobenzimidazole | 0.94 mmol, 0.25 g | BrC=1NC2=C(N1)C=C(C(=C2)Cl)Cl | C7H3BrCl2N2
reactant | acetamide | 5.6 mmol, 1.4 ml | C(C)(=O)N | C2H5NO
reactant | 1,2,3,4-tetra-O-acetyl-xylopyranose | 0.94 mmol, 0.30 g | C(C)(=O)OC1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)CO1 | C13H18O9
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-bromo-5,6-dichloro-1-(2,3,4-tri-O-acetyl-beta-D-xylopyranosyl)-1H-benzimidazole | 0.24 mmol, 0.13 g, 26% | BrC1=NC2=C(N1[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)CO1)C=C(C(=C2)Cl)Cl | C18H17BrCl2N2O7
